US08404856B2
Step 6: 3-[(2-amino-4-chloropyridin-3-yl)oxy]-5-chlorobenzonitrile 21-6
To a degassed solution of tert-butyl [3-(3-bromo-5-chlorophenoxy)-4-chloropyridin-2-yl]carbamate (651 mg, 1.50 mmol) in NMP (7 mL) was added palladium tetrakistriphenylphosphine (260 mg, 0.225 mmol) and zinc cyanide (176 mg, 1.50 mmol) and heated to 100° C. for 20 minutes. After this time, the mixture was allowed to cool to room temperature and partitioned between water (20 mL) and ethyl acetate (2×50 mL). The combined organic extracts were washed with water (20 mL), dried over MgSO4, filtered and the solvent removed in vacuo. This residue was dissolved in TFA for 10 minutes and then the solvent was removed in vacuo. This residue was partitioned between NaHCO3 (50 mL) and ethyl acetate (2×50 mL). The combined extracts were dried over MgSO4, filtered and the solvent removed in vacuo. This residue was purified by chromatography using silica gel column (120 g) and eluting with a gradient of 0-50% EtOAc in CH2Cl2 to provide the title compound. LRMS (M+1): 279.8.

reactant | tert-butyl [3-(3-bromo-5-chlorophenoxy)-4-chloropyridin-2-yl]carbamate | 1.50 mmol, 651 mg | BrC=1C=C(OC=2C(=NC=CC2Cl)NC(OC(C)(C)C)=O)C=C(C1)Cl | C16H15BrCl2N2O3
reactant | NMP | 7 mL | CN1CCCC1=O | C5H9NO
catalyst | zinc cyanide | 1.50 mmol, 176 mg | [C-]#N.[Zn+2].[C-]#N
product | 3-[(2-amino-4-chloropyridin-3-yl)oxy]-5-chlorobenzonitrile | NC1=NC=CC(=C1OC=1C=C(C#N)C=C(C1)Cl)Cl | C12H7Cl2N3O
